US06153768
Synthesis of (3RS,4RS)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-4-[9-(p-toluenesulfonyloxy)nonyl]-2,3-dihydro-4H-benzopyran
(3RS,4RS)-4-(9-Hydroxynonyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran (90 mg, 0.19 mmol) was dissolved in pyridine (2 ml) and dichloromethane (0.5 ml) and then cooled to 0° C. p-Toluenesulfonylchloride (0.12 g, 0.63 mmol) was added dropwise thereto, and the mixture was stirred for 3 hours at room temperature, quenched with water and then extracted with ethyl acetate. The extracted organic substance was washed with 2N hydrochloric acid, dried over magnesium sulfate and then concentrated. The residue was subjected to column chromatography (n-hexane:ethyl acetate=4:1) to obtain 105 mg (yield: 88%) of the title compound as a colorless oil.

reactant | (3RS,4RS)-4-(9-Hydroxynonyl)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-2,3-dihydro-4H-benzopyran | 0.19 mmol, 90 mg | OCCCCCCCCCC1C(COC2=C1C=CC(=C2)OCOC)(C)C2=CC=C(C=C2)OCOC | C29H42O6
reactant | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
reactant | p-Toluenesulfonylchloride | 0.63 mmol, 0.12 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | (3RS,4RS)-7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methyl-4-[9-(p-toluenesulfonyloxy)nonyl]-2,3-dihydro-4H-benzopyran | 105 mg, yield: 88% | COCOC1=CC2=C(C(C(CO2)(C)C2=CC=C(C=C2)OCOC)CCCCCCCCCOS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C36H48O8S
